US05326553
Diisopropyl 2-(2,4,6-Triiodophenoxy)-1,3-propanedioate
A stirred solution of 18.8 g (0.1 mol) of diisopropyl malonate in 100 ml carbon tetrachloride was cooled in an ice bath and 15.8 g (0.1 mol) bromine was added dropwise over a 90 minute period. The ice bath was removed and the reaction stirred at room temperature for 20 hours. The reaction solution was concentrated in vacuo and the resulting residue distilled to yield 16.1 g (76%) of the bromomalonate I [H. P. Gallus and A. K. Macbeth, J. Chem. Soc., 1937, 1810-12] as a clear colorless liquid; Bp 51°-2° C./0.1 mm Hg. CI/MS: MH+ 267. 1H-NMR (300 MHZ) spectral data was consistent with the desired structure. Using the same procedure as for 2-(2,4,6-triiodophenoxy)-1,3-propanedioic acid, diethyl ester, but substituting methylene chloride for ethyl acetate in the aqueous extraction, 2-(2,4,6-triiodophenoxy)-1,3-propanedioic acid, diisopropyl ester was prepared from 8.6 g (0.03 mol) of malonate I, 107 g (0.03 mol) of 2,4,6-triiodophenol, 4.5 g (0.03 mol) of milled anhydrous potassium carbonate and 30 ml of dimethylformamide in 69% yield as a tan oil; bp>65° C./0.65 mm Hg after chromatography (hexanes to 5% ether in hexanes). Title Compound: 1H (300 MHz) and 13C (75 MHz) NMR spectra were consistent with the desired structure. FAB/MS: MH+ 659. Calculated for C15H17I3O5 : C, 27.38 H, 2.60; I, 57.86. Found: C, 27.45; H, 2.56; I, 57.82.

reactant | 2-(2,4,6-triiodophenoxy)-1,3-propanedioic acid, diethyl ester | IC1=C(OC(C(=O)OCC)C(=O)OCC)C(=CC(=C1)I)I | C13H13I3O5
reactant | malonate | 0.03 mol, 8.6 g | C(CC(=O)[O-])(=O)[O-]
reactant | 2,4,6-triiodophenol | 0.03 mol, 107 g | IC1=C(C(=CC(=C1)I)I)O | C6H3I3O
reactant | potassium carbonate | 0.03 mol, 4.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | ether | CCOCC | C4H10O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Diisopropyl 2-(2,4,6-Triiodophenoxy)-1,3-propanedioate | IC1=C(OC(C(=O)OC(C)C)C(=O)OC(C)C)C(=CC(=C1)I)I | C15H17I3O5
